US08053435B2
(4-6-1) (Z)-Methyl 4-(3-(1-ethylpiperidin-4-ylamino)-2-((naphthalen-1-yloxy)methyl)prop-1-enyl)benzoate (XXVIIIa)
Methyl 4-[2-bromomethyl-3-(naphthalen-1-yloxy)-propenyl]-benzoate (412 mg, 1 mmol) was dissolved in N,N′-dimethylformamide (2.5 ml) in a 100 ml flask at 0° C., and to the resulting solution, triethylamine (0.17 ml, 1.2 mmol, 1.2 eq.) and 1-ethylpiperidin-4-ylamine (128 ml, 1.0 mmol, 1.0 eq.) were added while stirring. The resulting mixture was heated from 0° C. to room temperature, and then reacted for 4 hours. After the completion of reaction, the mixture was concentrated under reduced pressure, and the residue thus obtained was extracted with ethyl ester. The organic layer was separated, washed with an aqueous saturated sodium bicarbonate solution and brine in order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to a silica gel column chromatography to obtain 211 mg of the title compound as pale yellow oil (yield 46%).

reactant | Methyl 4-[2-bromomethyl-3-(naphthalen-1-yloxy)-propenyl]-benzoate | 1 mmol, 412 mg | BrCC(=CC1=CC=C(C(=O)OC)C=C1)COC1=CC=CC2=CC=CC=C12 | C22H19BrO3
reactant | triethylamine | 1.2 mmol, 0.17 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | 1-ethylpiperidin-4-ylamine | 1.0 mmol, 128 ml, 1.0 eq. | C(C)N1CCC(CC1)N | C7H16N2
solvent | N,N′-dimethylformamide | 2.5 ml | CN(C)C=O | C3H7NO
product | (Z)-Methyl 4-(3-(1-ethylpiperidin-4-ylamino)-2-((naphthalen-1-yloxy)methyl)prop-1-enyl)benzoate | 211 mg, yield 46% | C(C)N1CCC(CC1)NC/C(=C/C1=CC=C(C(=O)OC)C=C1)/COC1=CC=CC2=CC=CC=C12 | C29H34N2O3
